US08455646B2
Preparation of (2-fluoro-phenylamino)-phenyl-acetic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl)ester (C248)
A solution of DCC (534 mg, 0.71 mmol), 1H-benzo[d][1,2,3]triazol-1-ol hydrate (217 mg, 1:42 mmol), (2-fluoro-phenylamino)-phenyl-acetic acid hydrochloride (I247) (200 mg, 0.71 mmol) and (R)-quinuclidin-3-ol (271 mg, 2.13 mmol) in THF (10 mL) is stirred at RT for 2 days. The solvent is evaporated and the residue is taken up with EtOAc, washed with sat NaHCO3, water and brine. The organic layer is collected, dried over Na2SO4, filtered and evaporated to dryness. The residue is purified by preparative HPLC. The organic solvent is evaporated and the acid aqueous phase is basified with Na2CO3 and extracted with EtOAc. The organic layer is dried (Na2SO4), filtered and evaporated to afford the title compound as yellow oil (41 mg, 16% yield).

reactant | DCC | 0.71 mmol, 534 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 1H-benzo[d][1,2,3]triazol-1-ol hydrate | 42 mmol, 217 mg | O.N1(N=NC2=C1C=CC=C2)O
reactant | (2-fluoro-phenylamino)-phenyl-acetic acid hydrochloride | 0.71 mmol, 200 mg | Cl.FC1=C(C=CC=C1)NC(C(=O)O)C1=CC=CC=C1
reactant | (R)-quinuclidin-3-ol | 2.13 mmol, 271 mg | N12C[C@@H](C(CC1)CC2)O | C7H13NO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (2-fluoro-phenylamino)-phenyl-acetic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl)ester | 41 mg, 16% yield | N12C[C@@H](C(CC1)CC2)OC(C(C2=CC=CC=C2)NC2=C(C=CC=C2)F)=O | C21H23FN2O2
